US04591636
16.48 g of (S)-3'-acetyl-1',2',3',4'-tetrahydro-3'-hydroxy-5',8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] were suspended in 1450 ml of dry tetrahydrofuran and 3.59 g of sodium borohydride were added to the mixture. The mixture was then stirred at room temperature under nitrogen for 4 hours. The solvent was removed by evaporation and the white residue was cooled to 0° C. 1500 ml of 5% ammonium chloride solution were added and the mixture was stirred at room temperature until the evolution of gas had ceased. The solution was extracted with three 500 ml portions of ethyl acetate and the combined ethyl acetate extracts were washed with 1000 ml of water, dried over magnesium sulphate and evaporated to give 17.65 g of (3'S)-1',2',3',4'-tetrahydro-3'-hydroxy-3'-(1-hydroxyethyl)-5',8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] in the form of a colourless gum which was used without further purification.

reactant | (S)-3'-acetyl-1',2',3',4'-tetrahydro-3'-hydroxy-5',8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] | 16.48 g | C(C)(=O)[C@]1(CC2(C3=C(C=CC(=C3C1)OC)OC)SCCS2)O | C16H20O4S2
reactant | sodium borohydride | 3.59 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 1450 ml | O1CCCC1 | C4H8O
product | (3'S)-1',2',3',4'-tetrahydro-3'-hydroxy-3'-(1-hydroxyethyl)-5',8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] | 17.65 g | O[C@@]1(CC2(C3=C(C=CC(=C3C1)OC)OC)SCCS2)C(C)O | C16H22O4S2
